US08859588B2
(2S,3′R)-2-Methyl-[1,3′]bipyrrolidinyl dihydrochloride
To a chilled solution of Intermediate (v), (2S,3′R)-2-methyl-[1,3′]bipyrrolidinyl-1′-carboxylic acid tert-butyl ester, (2.51 g, 9.87 mmol) in 1,4-dioxane (9 mL) at 0° C. was added 4N HCl in dioxane (6 mL) and allowed to stir for 20 h at ambient temperature. The reaction mixture was concentrated to afford an oil which was dried under high vacuum to obtain 2.29 g of the title compound.

reactant | (2S,3′R)-2-methyl-[1,3′]bipyrrolidinyl-1′-carboxylic acid tert-butyl ester | 9.87 mmol, 2.51 g | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)N1[C@H](CCC1)C | C14H26N2O2
reactant | HCl | 4N | Cl | ClH
solvent | 1,4-dioxane | 9 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
product | (2S,3′R)-2-Methyl-[1,3′]bipyrrolidinyl dihydrochloride | 2.29 g | Cl.Cl.C[C@@H]1N(CCC1)[C@H]1CNCC1 | InChI=1S/C9H18N2.2ClH/c1-8-3-2-6-11(8)9-4-5-10-7-9;;/h8-10H,2-7H2,1H3;2*1H/t8-,9+;;/m0../s1
